US07312354B2
Synthesis of 2-(1-cyanoethyl)-2-adamantyl Methacrylate Represented by a Structural Formula
A glass reactor of 500 ml which was equipped with a stirrer and dropping funnel was charged with 100 ml of dried tetrahydrofuran and 25 ml of hexamethylphosphoric acid triamide (HMPA), and it was cooled (−50° C.) on a dry ice/isopropanol bath and then charged with a solution obtained by dissolving 22.2 g (148 millimole) of adamantanone (Adamantanone, manufactured by Idemitsu Petrochemical Co., Ltd.) in 100 ml of tetrahydrofuran and 8.6 ml (163 millimole) of propionitrile. A lithium diisopropylamide solution (1.8M) 90 ml (162 millimole) was dropwise added thereto in 30 minutes. After finishing dropwise adding, the temperature was slowly elevated up to 0° C. This reaction liquid was dropwise added in 30 minutes to a solution of 47 ml (318 millimole) of methacrylic anhydride, 45 ml (320 millimole) of dried triethylamine and 100 ml of dried tetrahydrofuran while the solution was cooled to 0° C. on an ice and water bath. After further stirred at 0° C. for 30 minutes, 200 ml of water and 300 ml of diethyl ether were added thereto and stirred. This solution was transferred into a separating funnel of 2 liter to remove an aqueous phase, and then an organic phase was washed with diluted hydrochloric acid to remove a Li salt and a triethylamine salt. Further, this was neutralized by a sodium carbonate aqueous solution and then washed with water. The organic phase was dried on anhydrous magnesium sulfate, and then the solvent was distilled off by means of an evaporator to obtain 40 g of a crude reaction product. n-Hexane 100 ml was added to the crude reaction product, and the solution was cooled while stirring to remove deposited 2-(1-cyanoethyl)-2-adamantanol by filtration. Activated carbon was added to the n-hexane solution to confirm that the solution became colorless, and it was filtered off. Then, the solvent was distilled off by means of an evaporator to obtain 34.0 g of a colorless solid matter. It was analyzed by gas chromatography to confirm that the intended product having a purity of 95.1% was obtained. The respective data of 1H-NMR, 13C-NMR and GC-MS are shown below.

reactant | adamantanone | 148 millimole, 22.2 g | C12C(C3CC(CC(C1)C3)C2)=O | C10H14O
reactant | propionitrile | 163 millimole, 8.6 ml | C(CC)#N | C3H5N
reactant | lithium diisopropylamide | 162 millimole, 1.8M, 90 ml | C(C)(C)[N-]C(C)C.[Li+]
reactant | methacrylic anhydride | 318 millimole, 47 ml | C(C(=C)C)(=O)OC(C(=C)C)=O | C8H10O3
reactant | triethylamine | 320 millimole, 45 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | n-Hexane | 100 ml | CCCCCC | C6H14
solvent | diethyl ether | 300 ml | C(C)OCC | C4H10O
solvent | water | 200 ml | O | H2O
solvent | hexamethylphosphoric acid triamide | 25 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
product | 2-(1-cyanoethyl)-2-adamantyl Methacrylate | 34.0 g | C(C(=C)C)(=O)OC1(C2CC3CC(CC1C3)C2)C(C)C#N | C17H23NO2
